US04433152
A mixture of 1.5 g of 1-amidino-4-piperidinepropionic acid hydrochloride and 6.8 g of bis-(p-methoxyphenyl)sulfite was stirred at room temperature for 35 hours in a solution of 14 ml of dry dimethylformamide and 7 ml of dry pyridine. The solvent was removed under reduced pressure, and ether was added to the residue to give crystals. The crystals were washed with ether twice and then with ethyl acetate and recrystallized from isopropyl alcohol-isopropyl ether to obtain 1.25 g (yield: 57%) of p-methoxyphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 148° to 151° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 1.5 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | bis-(p-methoxyphenyl)sulfite | 6.8 g | COC1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)OC | C14H14O5S
reactant | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | p-methoxyphenyl 1-amidino-4-piperidinepropionate hydrochloride | 1.25 g, yield: 57% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)OC | InChI=1S/C16H23N3O3.ClH/c1-21-13-3-5-14(6-4-13)22-15(20)7-2-12-8-10-19(11-9-12)16(17)18;/h3-6,12H,2,7-11H2,1H3,(H3,17,18);1H
